US07745641B2
in a similar manner to Step 4 of Example 16, 4,7-dichloro-1-hydroxy-2-(1-methyl-1-phenylethyl)-1,2-dihydropyrrolo[3,4-c]pyridine-3-one (38.8 mg, 0.115 mmol) was dissolved in nitromethane (1.6 mL), and the solution was treated with trifluoroacetic acid (0.177 mL, 2.30 mmol) and triethylsilane (55.1 mL, 0.345 mmol), followed by purification by slurry using chloroform/methanol and by preparative thin-layer chromatography (hexane/ethyl acetate=1/1) to obtain 4,7-dichloro-1,2-dihydropyrrolo[3,4-c]pyridine-3-one (16.8 mg, yield 72%).

reactant | 4,7-dichloro-1-hydroxy-2-(1-methyl-1-phenylethyl)-1,2-dihydropyrrolo[3,4-c]pyridine-3-one | 0.115 mmol, 38.8 mg | ClC1=NC=C(C2=C1C(N(C2O)C(C)(C2=CC=CC=C2)C)=O)Cl | C16H14Cl2N2O2
reactant | trifluoroacetic acid | 2.30 mmol, 0.177 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.345 mmol, 55.1 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | nitromethane | 1.6 mL | [N+](=O)([O-])C | CH3NO2
product | 4,7-dichloro-1,2-dihydropyrrolo[3,4-c]pyridine-3-one | 16.8 mg, yield 72% | ClC1=NC=C(C2=C1C(NC2)=O)Cl | C7H4Cl2N2O
